US08022062B2
5-Methyl-benzoxazole:
Combine 2-amino-4-methyl-phenol (1.0 g, 8.12 mmol), [(dimethylaminomethylene-aminomethylene)dimethylammonium chloride (Gold's reagent) (1.6 g, 9.91 mmol), anhydrous 1,4-dioxane (25 mL) and reflux for 17 h. Cool the reaction mixture to ambient temperature, evaporate the solvent and purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to obtain the desired intermediate as a yellow oil (0.7 g, 65%).

reactant | 2-amino-4-methyl-phenol | 8.12 mmol, 1.0 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | (dimethylaminomethylene-aminomethylene)dimethylammonium chloride | 9.91 mmol, 1.6 g | [Cl-].CN(C)C=NC=[N+](C)C
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-Methyl-benzoxazole | 0.7 g, 65% | CC=1C=CC2=C(N=CO2)C1 | C8H7NO
